US07183445B2
To the solution of 4-methoxy-phenyl-acetylene (10 g, 0.075 mol) and 4-iodo-anisole (17.65 g, 1.0 eq.) in diethylamine (150 mL) was added Pd(PPh3)2Cl2 (2.65 g, 0.05 eq.) and the reaction mixture was stirred for 30 min at 0° C. To the reaction mixture was then added Cul (1.43 g, 0.1 eq.) and the mixture was stirred at 6 h at 0˜25° C. The reaction mixture was then concentrated and partitioned between ethyl acetate/H2O (200/600 mL). The organic layer was separated, dried and purified on SiO2 (1˜5% ethyl acetate/hexane) to yield 1,2-di(4-methoxy-phenyl)-acetylene.

reactant | 4-methoxy-phenyl-acetylene | 0.075 mol, 10 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | 4-iodo-anisole | 17.65 g, 1.0 eq. | IC1=CC=C(C=C1)OC | C7H7IO
solvent | diethylamine | 150 mL | C(C)NCC | C4H11N
catalyst | Pd(PPh3)2Cl2 | 2.65 g, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,2-di(4-methoxy-phenyl)-acetylene | COC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OC | C16H14O2
